US09120749B2
tert-Butyl trans-4-{6-bromo-3-(cyclopropanecarbonyl)-7-fluoroquinolin-4-ylamino}cyclohexylcarbamate
Following general procedure B, (6-bromo-4-chloro-7-fluoroquinolin-3-yl)(cyclopropyl)methanone (350 mg, 1.06 mmol) was reacted with tert-butyl trans-4-aminocyclohexylcarbamate (270 mg, 1.27 mmol) to afford the desired product (400 mg, 75%) as a light yellow solid: 1H NMR (300 MHz, CDCl3) δ 10.67 (d, J=8.3 Hz, 1H), 9.22 (s, 1H), 8.32 (d, J=7.3 Hz, 1H), 7.62 (d, J=9.5 Hz, 1H), 4.42 (s, 1H), 3.91 (d, J=8.1 Hz, 1H), 3.52 (s, 1H), 2.75-2.56 (m, 1H), 2.18 (t, J=13.4 Hz, 4H), 1.72-1.62 (m, 1H), 1.59-1.50 (m, 2H), 1.45 (s, 9H), 1.30-1.18 (m, 3H), 1.13-1.01 (m, 2H).

reactant | (6-bromo-4-chloro-7-fluoroquinolin-3-yl)(cyclopropyl)methanone | 1.06 mmol, 350 mg | BrC=1C=C2C(=C(C=NC2=CC1F)C(=O)C1CC1)Cl | C13H8BrClFNO
reactant | tert-butyl trans-4-aminocyclohexylcarbamate | 1.27 mmol, 270 mg | N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H22N2O2
product | tert-Butyl trans-4-{6-bromo-3-(cyclopropanecarbonyl)-7-fluoroquinolin-4-ylamino}cyclohexylcarbamate | 400 mg, 75% | BrC=1C=C2C(=C(C=NC2=CC1F)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C24H29BrFN3O3
